US06028032
A mixture of palladium (II) acetate (25 mg), tert butyl-dimethylsilane (1.25 ml) and triethylamine (0.05 ml) in dichloromethane was stirred at room temperature under an inert atmosphere for 0.25 hour. A solution of benzyl 2-(6-acetoxymethyl-2,3-dihydro-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methylpropanoate (1.0 g) was added and stirring continued for 18 hours. The mixture was filtered (hyflo) and evaporated to give tert butyldimethylsilyl 2-(6-acetoxymethyl-2,3-dihydro-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methylpropanoate (0.92 g) as a yellow oil, NMR (CDCl3)δ 0.25(s,9H), 1.5(s,6H), 2.0(s,3H), 4.5(s,2H), 5.2(s,2H), 7.0-7.3(m,5H).

reactant | tert butyl-dimethylsilane | 1.25 ml | C(C)(C)(C)[SiH](C)C | C6H16Si
reactant | triethylamine | 0.05 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl 2-(6-acetoxymethyl-2,3-dihydro-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methylpropanoate | 1.0 g | C(C)(=O)OCC1=C(C(N(CO1)C(C(=O)OCC1=CC=CC=C1)(C)C)=O)C1=CC=CC=C1 | C24H25NO6
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | palladium (II) acetate | 25 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | tert butyldimethylsilyl 2-(6-acetoxymethyl-2,3-dihydro-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methylpropanoate | 0.92 g | C(C)(=O)OCC1=C(C(N(CO1)C(C(=O)O[Si](C)(C)C(C)(C)C)(C)C)=O)C1=CC=CC=C1 | C23H33NO6Si
